US07321001B2
A mixture of [4-(2-nitro-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester (1.31 g, 3.54 mmol) and 10% Pd/C (377 mg, 0.354 mmol) in 17 mL of methanol was allowed to stir at room temperature under hydrogen atmosphere for 12 h. Upon completion, the mixture was filtered through a short column of celite and the filtrate was concentrated in vacuo to give 920 mg of [4-(2-Amino-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester. 1H NMR (CDCl3): δ 7.24-7.33 (m, 3H), 6.80-7.06 (m, 4H), 4.01 (br s, 2H), 3.71 (s, 3H), 3.61 (s, 2H). LCMS (ESI+) 326 (M+1).

reactant | [4-(2-nitro-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 3.54 mmol, 1.31 g | COC(CC1=CC=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C16H12F3NO5
solvent | methanol | 17 mL | CO | CH4O
catalyst | Pd/C | 0.354 mmol, 377 mg | [Pd] | Pd
product | [4-(2-Amino-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 920 mg | COC(CC1=CC=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)N)=O | C16H14F3NO3
